US04940481
A mixture of 10.0 g of 2-tert-butyl-2-[1-(1H-1,2,4-triazol-1-yl)ethyl]-oxirane, 6.4 g of 4-fluorophenol and 0.1 g of lithium hydroxide hydrate in 10 ml of diethylene glycol dimethyl ether is heated for 18 hours to 150° C. After it has cooled, the reaction mixture is poured into ice-water and extracted with ether. The organic phase is washed with water and a saturated solution of sodium chloride, dried and concentrated. Chromatography over silica gel with a 3:1 mixture of ethyl acetate/toluene as eluant yields 11.0 g of 1-(4-fluorophenoxy)-2-tert-butyl-2-hydroxy-3-methyl-3-(1H-1,2,4-triazol-1-yl)propane with a melting point of 85°-100° C. (compound 18).

reactant | 2-tert-butyl-2-[1-(1H-1,2,4-triazol-1-yl)ethyl]-oxirane | 10.0 g | C(C)(C)(C)C1(OC1)C(C)N1N=CN=C1 | C10H17N3O
reactant | 4-fluorophenol | 6.4 g | FC1=CC=C(C=C1)O | C6H5FO
solvent | diethylene glycol dimethyl ether | 10 ml | COCCOCCOC | C6H14O3
catalyst | lithium hydroxide hydrate | 0.1 g | O.[OH-].[Li+]
product | 1-(4-fluorophenoxy)-2-tert-butyl-2-hydroxy-3-methyl-3-(1H-1,2,4-triazol-1-yl)propane | 11.0 g | FC1=CC=C(OCC(C(N2N=CN=C2)C)(O)C(C)(C)C)C=C1 | C16H22FN3O2
